US04444766
The starting material is obtained as follows: Butylene-1,3-glycol is reacted with acetic anhydride at ambient temperature to give butane-1,3-diol 1-acetate in a yield of 63% of theory. It is then esterified with benzenesulphochloride in the presence of pyridine and the reaction product is eluted over a silica gel column with diethyl ether-ligroin (1:1 v/v). There is obtained a yield of 24% of theory of a colourless oil which is reacted with sodium octadecanethiol in the manner described in Example 20B and then treated with a dilute aqueous solution of sodium hydroxide to give a yield of 12% of theory of 3-octadecylthiobutanol; m.p. 35°-38° C.

reactant | sodium octadecanethiol | C(CCCCCCCCCCCCCCCCC)S.[Na]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-octadecylthiobutanol | yield of 12% | C(CCCCCCCCCCCCCCCCC)SC(CCO)C | C22H46OS
